US08604029B2
Acetyl chloride (0.24 mL, 3.4 mmol) was added to an ice-cooled solution of 3-methyl-1-[1-methyl-1-(3-nitro-phenyl)-ethylamino]-butan-2-one (600 mg, 2.27 mmol) and triethylamine (0.79 mL, 5.6 mmol) in DCM (10 mL). The mixture was maintained between 0 and 5° C. for 30 min. then concentrated in vacuo. The residue was redissolved in ethyl acetate, washed with water then brine and dried over sodium sulfate. Concentration afforded N-[1-methyl-1-(3-nitro-phenyl)-ethyl]-N-(3-methyl-2-oxo-butyl)-acetamide (620 mg, 89%) as an oil.

reactant | Acetyl chloride | 3.4 mmol, 0.24 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-methyl-1-[1-methyl-1-(3-nitro-phenyl)-ethylamino]-butan-2-one | 2.27 mmol, 600 mg | CC(C(CNC(C)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O)C | C14H20N2O3
reactant | triethylamine | 5.6 mmol, 0.79 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[1-methyl-1-(3-nitro-phenyl)-ethyl]-N-(3-methyl-2-oxo-butyl)-acetamide | 620 mg, 89% | CC(C)(C1=CC(=CC=C1)[N+](=O)[O-])N(C(C)=O)CC(C(C)C)=O | C16H22N2O4
